US04859684
A mixture of 7.4 parts of N-[2-amino-4-[1-(1H-imidazol-1-yl)ethyl]phenyl]acetamide, 10 parts of acetic acid and 100 parts of a hydrochloric acid solution 4N was stirred and refluxed for 3.5 hours. The reaction mixture was evaporated. The residue was dissolved in 20 parts of 2-propanol. The product was crystallized at room temperature. The product was filtered off and dried, yielding 8.1 parts (90.2%) of 5-[1-(1H-imidazol-1-yl)ethyl]-2-methyl-1H-benzimidazole dihydrochloride; mp. 236.2° C. (compound 206).

reactant | N-[2-amino-4-[1-(1H-imidazol-1-yl)ethyl]phenyl]acetamide | NC1=C(C=CC(=C1)C(C)N1C=NC=C1)NC(C)=O | C13H16N4O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[1-(1H-imidazol-1-yl)ethyl]-2-methyl-1H-benzimidazole dihydrochloride | 90.2% | Cl.Cl.N1(C=NC=C1)C(C)C1=CC2=C(NC(=N2)C)C=C1 | InChI=1S/C13H14N4.2ClH/c1-9(17-6-5-14-8-17)11-3-4-12-13(7-11)16-10(2)15-12;;/h3-9H,1-2H3,(H,15,16);2*1H
